US08039460B2
Step C: tert-Butyl 4-(2-methoxypyridin-3-yl)piperidine-1-carboxylate
Di-tert-butyl dicarbonate (0.31 g, 1.43 mmol) was added to a solution of benzyl 2-methoxy-3′,6′-dihydro-3,4′-bipyridine-1′(2′H)-carboxylate (0.42 g, 1.3 mmol) in ethyl acetate (4 mL). Palladium (10% on carbon; 200 mg) was added and the reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 3 h, the mixture was filtered through celite and concentrated to give the title compound (416 mg). MS 293.2 (M+1).

reactant | Di-tert-butyl dicarbonate | 1.43 mmol, 0.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyl 2-methoxy-3′,6′-dihydro-3,4′-bipyridine-1′(2′H)-carboxylate | 1.3 mmol, 0.42 g | COC1=NC=CC=C1C=1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H20N2O3
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium | 200 mg | [Pd] | Pd
product | tert-Butyl 4-(2-methoxypyridin-3-yl)piperidine-1-carboxylate | 416 mg | COC1=NC=CC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O3
